Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
dapsone
 
Attending: ___.
 
Chief Complaint:
Fever, headaches, vomiting 
 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
___ yoF with transformed DLBCL ___ autoSCT ___ and IFRT,
subsequent treatment related MDS now ___ URD allogeneic
transplant D+___, also h/o CVID (on IVIg), GERD, OA, h/o R DVT 
___
IVC filter, sciatica, OSA on CPAP, h/o cerebral aneurysm c/b 
mild
CN6 palsy, hypertensive, obesity presents with fever (T 100.5)
and vomiting. 

Today, she had another episode of vomiting, without drinking any
coffee. She also noted frontal headache in band like 
distribution
around her head. She reports no neck stiffness (other than
baseline related to cervical radiculopathy with radiation down R
arm). Denies changes in vision, numbness, weakness. She has
infrequent, scattered abdominal pain. Denies further diarrhea.
Denies rash. No chest pain, dyspnea, cough, dysuria. 

VS in ER T99.9 94 150/67 18 100% RA . Appears comfortable on the
floor. No other issues.

 
Past Medical History:
- Treatment-Related MDS after transformed follicular lymphoma
- CVID, received IVIG monthly; last given ___
- GERD                                          
- Osteoarthritis                                         
- DVT, right lower extremity, IVC filter in place
- Cervical radiculopathy
- Sciatica
- Obstructive sleep apnea, wears CPAP
- H/O cerebral aneurism, noted on MRA with small R internal
carotid cavernous sinus aneurysm; coil placed in the aneurysm
(___).  On Neurontin.  Exam notable for slight CN 6 palsy of
the right eye, mild proptosis of the right eye, and hyperthesia
of the right V1 distribution
- Asthma
- Obesity
- Hypertension
- Migraines
- + RSV, ___
- History of osteomyelitis with IV antibioitcs for 6
weeks. 
 
Social History:
___
Family History:
Brother with lymphoma, died at age ___. Father had CAD and DM. 
Mother had CHF.

 
Physical Exam:
ADMISSION PHYSICAL EXAM: 

GENERAL: No fever, chills, night sweats, recent weight changes. 
HEENT: No sores in the mouth, painful swallowing, intolerance to
liquids or solids, sinus tenderness, rhinorrhea, or congestion. 
CARDS: No chest pain, chest pressure, exertional symptoms, or
palpitations. 
PULM: No cough, shortness of breath, hemoptysis, or wheezing. 
GI: No nausea, vomiting, diarrhea, constipation or abdominal
pain.  
GU: No dysuria or change in bladder habits. 
MSK: No arthritis, arthralgias, myalgias, or bone pain. 
DERM: Denies rashes, itching, or skin breakdown. 
NEURO: Mild ___ diffuse headache. No visual changes, +Chronic
RUE tingling, No other focal neurologic symptoms. 

DISCHARGE PHYSICAL EXAM:
Gen: NAD, sitting comfortably in a chair
HEENT: MMM, oropharynx clear. No LAD.
CV:  regular rhythm, no murmurs
PULM:  CTAB, No crackles or wheezes.
ABD:  BS+, soft, NTND,
Ext: 1 ___ edema, no clubbing/tremors, venous stasis
dermatitis bilaterally on ___
SKIN:  No rashes
Neuro: A&Ox3, prior R CN6 palsy and R pupil with minimal 
response
to light, ___ strength throughout, sensation intact. No nuchal
rigidity or photophobia.
 
Pertinent Results:
___ 12:00AM BLOOD CMV VL-3.4*
___ 12:00AM BLOOD CMV VL-2.9*
 
Brief Hospital Course:
___ yoF with transformed DLBCL ___ autoSCT ___ and IFRT, 
subsequent treatment related MDS now ___ URD allogeneic 
transplant, also h/o CVID (on IVIg), GERD, OA, h/o R DVT ___ IVC 
filter, sciatica, OSA on CPAP, h/o cerebral aneurysm c/b mild 
CN6 palsy, hypertensive, presented on ___ with fever (T 100.5),
nausea/vomiting, headaches most concerning for meningitis.

#Aseptic meningitis
She initially presented with headache fever, nausea and 
vomiting.  She was treated initially with cefepime and acyclovir 
to cover both bacterial meningitis and HSV meningitis.  These 
were discontinued when an LP from ___ was  consistent with 
aseptic meningitis and no HSV was found in the CSF.  Extensive 
workup for VZV EBV HSV HHV6 adenovirus arbovirus TB
Anaplasma and serum toxoplasmosis was negative.  She was noted 
to have CMV viremia and although this is an unlikely cause of 
meningitis she was treated with ganciclovir.

#CMV viremia
Found to have CMV vl on ___, which persisted. She was treated 
with IV ganciclovir and then transitioned to oral valganciclovir 
prior to discharge.

#Diarrhea
She had mild diarrhea on and off throughout her admission that 
was thought to be likely due to GVHD versus infection.  C. 
difficile from ___ was negative.  Stool frequency slowly 
improved over admission.

#Anorexia 
Waxing and waning appetite that was concerning for acute GVHD.  
A GI consult was considered for upper/lower endoscopy, but her 
appetite slowly improved over admission.  She never had 
dysphasia, odynophagia, or early satiety.

#Dyspnea
She was noted to be short of breath on ___.  She had a drop in 
her oxygen saturation to the high ___ while ambulating this day. 
 ECG was unchanged.  And a CTA was negative.  She had an echo 
performed on ___ which is similar to a prior study on ___ with 
left ventricular systolic dysfunction and hypokinesis of the 
inferior/inferior lateral walls.  Repeat ambulatory sat on the 
day of discharge was within normal limits.

#MDS
___ allogeneic transplant with URD with reduced intensity 
Flu/Bu/ATG conditioning. D0 = ___. Continued prophylaxis 
with Bactrim and Fluconazole. Acyclovir on hold while on 
gancyclovir. Continued cyclosporine.

#Lower extremity edema
Diuresed as needed. 

#Right leg DVT
Continued lovenox ___ mg once per day.She has IVC filter in 
place.

#Right lower back pain
Aggravated from moving. Persistent since past few months. 
Continued oxycodone.
Lumbar spine MRI with and without contrast to evaluate new 
right-sided sciatic pain with no significant changes.

#Asthma
Inhalers were used as needed.

Transitional Issues
=======================

[ ] Follow-up on cyclosporine levels 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enoxaparin Sodium 100 mg SC Q24H 
2. Albuterol Inhaler ___ PUFF IH Q4H:PRN cough 
3. Fluconazole 400 mg PO Q24H 
4. FoLIC Acid 1 mg PO DAILY 
5. Gabapentin 400 mg PO BID 
6. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN SOB, wheeze 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation  
8. Senna 8.6 mg PO BID:PRN constipation  
9. Venlafaxine 25 mg PO BID 
10. CycloSPORINE (Neoral) MODIFIED 100 mg PO QAM 
11. Multivitamins 1 TAB PO DAILY 
12. Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN cough/wheeze 

13. Loratadine 10 mg PO DAILY cold 
14. Omeprazole 20 mg PO DAILY 
15. Ondansetron 4 mg PO Q8H:PRN nausea 
16. Ursodiol 300 mg PO QAM 
17. Ursodiol 600 mg PO QPM 
18. LORazepam 0.5-1 mg PO Q6H:PRN anxiety,nausea or vomiting if 
not relieved by ondansetron 
19. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
20. Acyclovir 200 mg PO 5X/D 
21. CycloSPORINE (Neoral) MODIFIED 125 mg PO QPM 

 
Discharge Medications:
1.  ValGANCIclovir 900 mg PO Q12H 
RX *valganciclovir 450 mg 2 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  CycloSPORINE (Neoral) MODIFIED 75 mg PO Q12H 
RX *cyclosporine modified 25 mg 3 capsule(s) by mouth twice a 
day Disp #*180 Capsule Refills:*0 
3.  Enoxaparin Sodium 100 mg SC DAILY 
Start: ___, First Dose: Next Routine Administration Time  
4.  Albuterol Inhaler ___ PUFF IH Q4H:PRN cough  
5.  Fluconazole 400 mg PO Q24H 
RX *fluconazole [Diflucan] 200 mg 2 tablet(s) by mouth once a 
day Disp #*60 Tablet Refills:*0 
6.  Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN cough/wheeze 
 
7.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
8.  Gabapentin 400 mg PO BID  
9.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN SOB, wheeze  
10.  Loratadine 10 mg PO DAILY cold  
11.  LORazepam 0.5-1 mg PO Q6H:PRN anxiety,nausea or vomiting if 
not relieved by ondansetron  
12.  Multivitamins 1 TAB PO DAILY  
13.  Omeprazole 20 mg PO DAILY  
14.  Ondansetron 4 mg PO Q8H:PRN nausea  
15.  Polyethylene Glycol 17 g PO DAILY:PRN constipation   
16.  Senna 8.6 mg PO BID:PRN constipation   
17.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
18.  Ursodiol 300 mg PO QAM 
RX *ursodiol 300 mg 1 capsule(s) by mouth qam Disp #*30 Capsule 
Refills:*0 
19.  Ursodiol 600 mg PO QPM 
RX *ursodiol 300 mg 2 capsule(s) by mouth qpm Disp #*60 Capsule 
Refills:*0 
20.  Venlafaxine 25 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
Aseptic meningitis
CMV Viremia
MDS

___:
CVID
Right leg DVT
Asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure being involved in your care. 

Why you were here: 
-You came in with a headaches, vomiting and a fever. 

What we did while you were here: 
-We tested you for an infection in the brain and treated you for 
what may have been a viral infection. 

What to do when you are discharged: 
-Continue taking your medications as prescribed 
-Attend your follow-up appointments 

It was a pleasure taking care of you! We wish you the best!

Your ___ Team 
 
Followup Instructions:
___